US04304791
Following the procedure of Example 18, N-(2,4-dinitro-6-trifluoromethylphenyl)-4-(1,1,2,2-tetrafluoroethoxy)benzenamine was reacted with dimethyl sulfate and sodium carbonate in acetone to provide N-(2,4-dinitro-6-trifluoromethylphenyl)-N-methyl-4-(1,1,2,2-tetrafluoroethoxy)benzenamine.

reactant | N-(2,4-dinitro-6-trifluoromethylphenyl)-4-(1,1,2,2-tetrafluoroethoxy)benzenamine | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)NC1=CC=C(C=C1)OC(C(F)F)(F)F | C15H8F7N3O5
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | N-(2,4-dinitro-6-trifluoromethylphenyl)-N-methyl-4-(1,1,2,2-tetrafluoroethoxy)benzenamine | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)N(C1=CC=C(C=C1)OC(C(F)F)(F)F)C | C16H10F7N3O5
